USRE036562
3-Trifluoromethylbenzoic acid was converted to the acid chloride by the procedure of example b. The acid chloride was reacted with 70% aq ethylamine using General Method E1 to afford the title compound Purification by recrystallization from hexanes gave 2.24 g of N-ethyl-3-(trifluoromethyl)benzamide as a white needles in 19% yield. m.p. 98°-99° C.

reactant | 3-Trifluoromethylbenzoic acid | FC(C=1C=C(C(=O)O)C=CC1)(F)F | C8H5F3O2
reactant | ethylamine | C(C)N | C2H7N
product | N-ethyl-3-(trifluoromethyl)benzamide | 2.24 g, 19% yield | C(C)NC(C1=CC(=CC=C1)C(F)(F)F)=O | C10H10F3NO
